US05260377
A dry 1 L three neck round bottom flask equipped with a mechanical stirrer, dropping funnel, and condenser with nitrogen inlet system was charged with 18.3 g (0.75 mole) magnesium powder and 250 ml anhydrous diethyl ether. The magnesium was activated by the addition of 200 mg iodine. And then 50.7 g (0.20 mole)(3-chloropropyl)phenyldichlorosilane in 100 ml diethyl ether was added dropwise over 40 mins. at room temperature. The mixture was stirred for an additional 48 h and 200 ml anhydrous diethyl ether was added. The magnesium chloride and excess magnesium was filtered under nitrogen. The solid was washed with three portions of ether. The solvent was removed by the distillation and the product was distilled by reduced pressure. 22 g of 1-chloro-1-phenyl-1-silacyclobutane b.p. 83°-85° C./2 mm Hg was obtained.

reactant | magnesium | 0.75 mole, 18.3 g | [Mg] | Mg
reactant | (3-chloropropyl)phenyldichlorosilane | 0.20 mole, 50.7 g | ClCCC[Si](Cl)(Cl)C1=CC=CC=C1 | C9H11Cl3Si
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | iodine | 200 mg | II | I2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 1-chloro-1-phenyl-1-silacyclobutane | 22 g | Cl[Si]1(CCC1)C1=CC=CC=C1 | C9H11ClSi
